US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine (1.57 g, 3.60 mmol) (obtained as described in Reference Example 70(8)) in toluene (80 ml) was added a solution of 0.67 M 3-methoxyazetidine (obtained as described in Reference Example 31(2))-trimethylaluminium in toluene (10.8 ml) at room temperature under an atmosphere of nitrogen and the mixture was stirred in an oil bath (60° C.) for 30 minutes. After checking the completion of the reaction, to the reaction mixture were added 10% aqueous acetic acid (100 ml) and ethyl acetate (200 ml) in an ice bath and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added ethyl acetate. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 3-t-butyldiphenylsilyloxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidine (1.50 g, yield 90%) as a pale brown solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine | 3.60 mmol, 1.57 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)C(=O)OC | C24H28N2O4Si
reactant | 3-methoxyazetidine | 0.67 M | COC1CNC1 | C4H9NO
reactant | trimethylaluminium | C[Al](C)C
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-t-butyldiphenylsilyloxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidine | 1.50 g, yield 90% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)C(=O)N1CC(C1)OC | C27H33N3O4Si
